US08138187B2
3-(2-(1H-Pyrazol-1-yl)ethyl)-1H-indole (Ind-75)
A solution of 3-(2-bromo-ethyl)-1H-indole (2.24 g, 10 mmol) and pyrazole (1.36 g, 20 mmol) in abs. dioxane (20 ml) was stirred at 80° C. for 16 h. The solvent was then removed i. vac., CHCl3 (100 ml) was added to the residue and the mixture was washed twice with water. The organic phase was dried over Na2SO4 and concentrated i. vac. and the residue which remained was purified by flash chromatography with CHCl3/MeOH (50:1).

reactant | 3-(2-bromo-ethyl)-1H-indole | 10 mmol, 2.24 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | pyrazole | 20 mmol, 1.36 g | N1N=CC=C1 | C3H4N2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-(2-(1H-Pyrazol-1-yl)ethyl)-1H-indole | N1(N=CC=C1)CCC1=CNC2=CC=CC=C12 | C13H13N3
